US07109192B2
136c) 2-bromo-3-(but-2-ynyl)-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one
0.31 ml of hydrazine hydrate (99%, 6.31 mmol), dissolved in 1 ml of ethanol, were added dropwise at ambient temperature to a solution of 1.80 g (6.31 mmol) of methyl 2-bromo-3-(but-2-ynyl)-5-formyl-3H-imidazol-4-carboxylate in 25 ml of ethanol. Five minutes later, 1.5 ml of concentrated acetic acid were added and the mixture was refluxed for 30 minutes. After cooling the precipitated solid was suction filtered, washed with 10 ml of ethanol and 20 ml of diethyl ether and dried.

reactant | hydrazine hydrate | 6.31 mmol, 0.31 ml | O.NN
reactant | methyl 2-bromo-3-(but-2-ynyl)-5-formyl-3H-imidazol-4-carboxylate | 6.31 mmol, 1.80 g | BrC1=NC(=C(N1CC#CC)C(=O)OC)C=O | C10H9BrN2O3
reactant | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-bromo-3-(but-2-ynyl)-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one | BrC=1N(C2=C(C=NNC2=O)N1)CC#CC | C9H7BrN4O
